US06743924B2
4-(Trifluoromethyl)cinnamamide (1 g, 4.65 mmol) and 1,3-dichloroacetone (1.1 g, 8.66 mmol) were added to toluene (5 ml) and the mixture was refluxed under heating for 8 hours. Ethyl acetate (20 ml) was added and the mixture was washed with water (20 ml) twice, and then concentrated under reduced pressure. To the residue was added methanol (4 ml) and the mixture was stirred at room temperature. The crystals were filtrated and dried under reduced pressure to give 4-(chloromethyl)-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole (733 mg, yield 55%).

reactant | 4-(Trifluoromethyl)cinnamamide | 4.65 mmol, 1 g | FC(C1=CC=C(C=CC(=O)N)C=C1)(F)F | C10H8F3NO
reactant | 1,3-dichloroacetone | 8.66 mmol, 1.1 g | ClCC(=O)CCl | C3H4Cl2O
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(chloromethyl)-2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazole | 733 mg, yield 55% | ClCC=1N=C(OC1)\C=C\C1=CC=C(C=C1)C(F)(F)F | C13H9ClF3NO
